US06787543B2
(4S,9aS)-4-Benzhydryl-8-benzyloxycarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine (740 mg) was dissolved in tetrahydrofuran (8 ml), and triethylamine (0.296 ml) was added to it at room temperature. The solution was hydrogenated over 10% palladium-charcoal (50% wet, 150 mg) at room temperature under atmospheric pressure for 2 hours. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure to give a colorless syrup. To a solution of the syrup in dichloromethane (10 ml) was added N,N-diisopropylethylamine (0.374 ml) and acetyl chloride (0.114 ml) under ice-cooling. After stirred at the same temperature for 2 hours, the mixture was poured into aqueous sodium hydrogen carbonate and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (10 g) using a mixed solvent of dichloromethane and methanol (20:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give a syrup. To a solution of the syrup in ethyl acetate (3 ml) was added a solution of 4N hydrogen chloride in ethyl acetate (0.70 ml), and triturated with diisopropyl ether. The precipitate was collected by filtration and dried under reduced pressure for 5 hours at 40° C. to give (4S,9aS)-8-acetyl-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride (580 mg) as a colorless powder.

reactant | (4S,9aS)-4-Benzhydryl-8-benzyloxycarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine | 740 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(C[C@@H]2N1CCN(C2)C(=O)OCC2=CC=CC=C2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | C38H38F3N7O3
reactant | N,N-diisopropylethylamine | 0.374 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.114 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.70 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-charcoal | 150 mg | [Pd] | Pd
solvent | triethylamine | 0.296 ml | C(C)N(CC)CC | C6H15N
product | (4S,9aS)-8-acetyl-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride | 580 mg | Cl.Cl.C(C)(=O)N1C[C@H]2N([C@H](CN(C2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC)C(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | InChI=1S/C32H34F3N7O2.2ClH/c1-22(43)40-15-16-41-27(20-40)19-39(21-28(41)30(23-9-5-3-6-10-23)24-11-7-4-8-12-24)18-25-17-26(13-14-29(25)44-2)42-31(32(33,34)35)36-37-38-42;;/h3-14,17,27-28,30H,15-16,18-21H2,1-2H3;2*1H/t27-,28+;;/m0../s1
